US04369178
t-Butyloxycarbonyl-L-valyl-D-isoglutamine (1.05 g, 3.04 mmol) and 6-chloro-1-p-chlorobenzenesulfonyloxybenzotriazole (1.24 g, 3.6 mmol) were reacted in DMF (5 ml) in the presence of TEA (0.5 ml) according to the procedure described in Example 6 (II). To the resulting mixture was added n-hexanol (3 ml) and TEA (0.5 ml). The mixture was then stirred at room temperature for 2 hours. The purification similar to that described in Example 6 (II) gave n-hexyl t-butyloxycarbonyl-L-valyl-D-isoglutaminate (287 mg). m.p. 94°-95° C. [α]D22 +9.41° (C 0.5, DMF). Rf2 =0.71, Rf3 =0.34

reactant | t-Butyloxycarbonyl-L-valyl-D-isoglutamine | 3.04 mmol, 1.05 g | C(C)(C)(C)OC(=O)N[C@@H](C(C)C)C(=O)N[C@H](CCC(=O)O)C(N)=O | C15H27N3O6
reactant | 6-chloro-1-p-chlorobenzenesulfonyloxybenzotriazole | 3.6 mmol, 1.24 g | ClC=1C=CC2=C(N(N=N2)OS(=O)(=O)C2=CC=C(C=C2)Cl)C1 | C12H7Cl2N3O3S
reactant | n-hexanol | 3 ml | C(CCCCC)O | C6H14O
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | n-hexyl t-butyloxycarbonyl-L-valyl-D-isoglutaminate | 287 mg | C(C)(C)(C)OC(=O)N[C@@H](C(C)C)C(=O)N[C@H](CCC(=O)OCCCCCC)C(N)=O | C21H39N3O6
